US04853404
0.63 g of 2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenol, 0.58 g of bromoacetic acid and 1.11 g of potassium carbonate are added to 40 ml of acetone, and the mixture is refluxed for 48 hours. The reaction mixture is concentrated to remove solvent, and water is added to the residue. The aqueous mixture is washed with ethyl acetate, acidified with 10% hydrochloric acid and then extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is crystallized with water, and the crystals are separated by filtration, washed successively with water and isopropyl ether, and dried to give 0.42 g of [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetic acid.

reactant | 2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenol | 0.63 g | ClC1=C(C=CC(=C1Cl)C(=O)C1=CC=NN1COCC)O | C13H12Cl2N2O3
reactant | bromoacetic acid | 0.58 g | BrCC(=O)O | C2H3BrO2
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetic acid | 0.42 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C1=CC=NN1COCC | C15H14Cl2N2O5
